US08044213B2
A mixture of 0.043 g (0.1 mmole) of 2-[6-(2-chloro-ethoxy)-benzoimidazol-1-yl]-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (I.28a), 1 mL of dimethylformamide, 0.069 g (0.5 mmole) of potassium carbonate, 0.001 g of potassium iodide and 0.033 mL (0.3 mmole) of 1-methyl-piperazine was stirred at 100 degrees for 6 hours. The mixture was cooled, the solid was removed by filtration and the filtrate purified by reverse phase silica gel chromatography, eluting with acetonitrile-water (gradient 30:70-100:0) to give 0.038 g of 4-(3-chloro-phenyl)-2-{6-[2-(4-methyl-piperazin-1-yl)-ethoxy]-benzoimidazol-1-yl}-thiazole-5-carboxylic acid amide (I.28) as a white solid. MH+/Z=497

reactant | 2-[6-(2-chloro-ethoxy)-benzoimidazol-1-yl]-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 0.1 mmole, 0.043 g | ClCCOC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(=O)N)C1 | C19H14Cl2N4O2S
reactant | potassium carbonate | 0.5 mmole, 0.069 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methyl-piperazine | 0.3 mmole, 0.033 mL | CN1CCNCC1 | C5H12N2
catalyst | potassium iodide | 0.001 g | [I-].[K+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-{6-[2-(4-methyl-piperazin-1-yl)-ethoxy]-benzoimidazol-1-yl}-thiazole-5-carboxylic acid amide | 0.038 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)OCCN2CCN(CC2)C | C24H25ClN6O2S
